US07064219B2
After 13.8 g of potassium hydroxide (having a purity of 85% by weight) was dissolved in 50 ml of water, 5.0 g (24.6 mmol) of indole-3-pyruvic acid and 9.8 g (73.8 mmol) of oxalacetic acid were added to the resulting solution, for reaction at ambient temperature for 72 hours (about pH 13 at the start of the reaction). To the reaction solution was added 6.8 g (98.4 mmol) of hydroxylamine hydrochloride salt. Then, the reaction solution was adjusted to pH 7.5 with aqueous 4N sodium hydroxide solution. After the reaction solution had been stirred for 24 hours at ambient temperature, the reaction solution was adjusted to pH 2.6 with 6N hydrochloric acid. After extraction using ethyl acetate, the organic layer was rinsed in aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate and concentrated to dryness. The resulting residue was dissolved in 10 ml of aqueous 14% ammonia, followed by gradual dropwise addition of 70 ml of ethanol, and stirred at ambient temperature for 3 hours. The resulting slurry was filtered. The resulting crystals was dried to obtain 2.7 g (7.9 mmol) of 4-hydroxy-4-(3-indolylmethyl)-2-hydroxyiminoglutaric acid in the form of an ammonium salt.

reactant | potassium hydroxide | 13.8 g | [OH-].[K+]
reactant | indole-3-pyruvic acid | 24.6 mmol, 5.0 g | N1C=C(C2=CC=CC=C12)CC(C(=O)O)=O | C11H9NO3
reactant | oxalacetic acid | 73.8 mmol, 9.8 g | C(CC(=O)C(=O)O)(=O)O | C4H4O5
reactant | hydroxylamine hydrochloride salt | 98.4 mmol, 6.8 g | Cl.NO
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 4-hydroxy-4-(3-indolylmethyl)-2-hydroxyiminoglutaric acid | 7.9 mmol, 2.7 g | OC(CC(C(=O)O)=NO)(C(=O)O)CC1=CNC2=CC=CC=C12 | C14H14N2O6
